US05073279
Octadecene-1/Sulfur Monochloride Adduct
Approximately 840 gm (3.0 mol. 90% purity) of octadecene was charged into a 2-liter reactor equipped with dropping funnel, reflux condenser, thermometer, and mechanical stirrer. Approximately 202.5 gm (1.5 mol.) of sulfur monochloride was added through the dropping funnel. Then the reaction mixture was heated to 95° to 100° C. to activate the sulfochlorination reaction. Moderate exotherm brought the temperature to 113° C. then the reaction was held at 110° C. for four hours. Near the end of the period at 110° C., the color became dark reddish. At completion, the product was left to cool slowly. This produced approximately 103 gm liquid material (C36H72S2Cl2).

reactant | octadecene | 3.0 mol, 840 gm | C=CCCCCCCCCCCCCCCCC | C18H36
reactant | sulfur monochloride | 1.5 mol, 202.5 gm | [S]Cl | ClS
product | Octadecene-1 Sulfur Monochloride | CCCCCCCCCCCCCCCCC=C.[S]Cl | InChI=1S/C18H36.ClS/c1-3-5-7-9-11-13-15-17-18-16-14-12-10-8-6-4-2;1-2/h3H,1,4-18H2,2H3;
